US04878940
3 Parts of 1-(1-phenylethyl)-1H-imidazole-5-methanol monohydrochloride were added portionwise to 16 parts of thionyl chloride (exothermic reaction with evolution of SO2 /HCl). After the addition was complete, the whole was stirred and refluxed for 30 minutes. After cooling there were added 40 parts of 2-propanol, whereupon a solid was precipitated. It was filtered off and recrystallized from a mixture of 60 parts of 2-propanol and 60 parts of 2,2'-oxybispropane, yielding 1.5 parts of 5-(chloromethyl)-1-(1-phenylethyl)-1H-imidazole monohydrochloride; mp. 173.5-175° C. (dec.) (compound 8.49).

reactant | 1-(1-phenylethyl)-1H-imidazole-5-methanol monohydrochloride | Cl.C1(=CC=CC=C1)C(C)N1C=NC=C1CO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | 2-propanol | CC(C)O | C3H8O
product | 5-(chloromethyl)-1-(1-phenylethyl)-1H-imidazole monohydrochloride | Cl.ClCC1=CN=CN1C(C)C1=CC=CC=C1 | InChI=1S/C12H13ClN2.ClH/c1-10(11-5-3-2-4-6-11)15-9-14-8-12(15)7-13;/h2-6,8-10H,7H2,1H3;1H
